US07109339B2
To a solution of 6-iodo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole in THF and H2O (3 mL) was added Na2CO3 (1.1 eq.) and Boc2O (1.1 eq.), consecutively. After 2 h, EtOAc and water were added. The aqueous layer was extracted with EtOAc (25 mL) and the combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography to give 6-iodo-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester in 88% yield.

reactant | 6-iodo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | IC1=CC=CC=2C3=C(NC12)CCNC3 | C11H11IN2
reactant | Na2CO3 | 1.1 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | 1.1 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 3 mL | O | H2O
product | 6-iodo-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 88% yield | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C(=CC=CC23)I)CC1 | C16H19IN2O2
